US07402595B2
6-bromo-2-[4-(4-carboxy-butyrylamino)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 2-(4-aminobenzyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (139 mg) in tetrahydrofuran (5 ml) were added triethylamine (0.084 ml), glutaric anhydride (51 mg), and the mixture was stirred at room temperature for 24 hrs. The solvent was evaporated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and isopropyl ether was added to the obtained residue and the mixture was crystallized. The obtained crystals were collected by filtration and dried under reduced pressure at 50° C. to give the title compound (131 mg, 76%).

reactant | 2-(4-aminobenzyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 139 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)N | C24H19BrN2O3
reactant | triethylamine | 0.084 ml | C(C)N(CC)CC | C6H15N
reactant | glutaric anhydride | 51 mg | C1(CCCC(=O)O1)=O | C5H6O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-bromo-2-[4-(4-carboxy-butyrylamino)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 131 mg, 76% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)NC(CCCC(=O)O)=O | C29H25BrN2O6
